US07053089B2
2-(Methylthio)pyrimidine-5-carbonitrile
To a stirred mixture of 4-chloro-2-(methylthio)pyrimidine-5-carbonitrile (0.843 g, 4.54 mmol) and zinc dust (1.48 g, 22.71 mmol) in ethanol (7.5 mL) and water (1.4 mL) was slowly added acetic acid (0.29 mL, 5.13 mmol). The resulting reaction mixture was vigorously stirred for 3 h. The solids were removed by filtration and the filtrate concentrated in vacuo. The residue was chromatographed on silica gel 60 (35 g), eluting with 10:1–20:89–70 CH2Cl2:2-propanol:hexane to give the title compound. M.S. (M+1): 152.

reactant | 4-chloro-2-(methylthio)pyrimidine-5-carbonitrile | 4.54 mmol, 0.843 g | ClC1=NC(=NC=C1C#N)SC | C6H4ClN3S
reactant | acetic acid | 5.13 mmol, 0.29 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | water | 1.4 mL | O | H2O
catalyst | zinc | 22.71 mmol, 1.48 g | [Zn] | Zn
product | 2-(Methylthio)pyrimidine-5-carbonitrile | CSC1=NC=C(C=N1)C#N | C6H5N3S
